US05721230
A stirred suspension of 27 g (126 mmol) of 6,7,8,9-tetrahydropyrido[1,2-a]indole-8-carboxylic acid in 30 ml of water and 450 ml of acetone was cooled to 0° C. and treated in succession with 14.7 g (145 mmol) of triethylamine and 17.3 g (159 mmol) of ethyl chloroformate. After 0.5 hour, 6.3 ml of 0.880 ammonia was added and stirring was continued for 1 hour. The solvent was removed under reduced pressure and the residue was triturated with aqueous ethanol. The product was filtered off and dried to give 13 g of 6,7,8,9-tetrahydropyrido[1,2-a]indole-8-carboxamide, as a white solid of melting point 165°-168° C.

reactant | 6,7,8,9-tetrahydropyrido[1,2-a]indole-8-carboxylic acid | 126 mmol, 27 g | C1=C2C=C3N(C2=CC=C1)CCC(C3)C(=O)O | C13H13NO2
reactant | triethylamine | 145 mmol, 14.7 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 159 mmol, 17.3 g | ClC(=O)OCC | C3H5ClO2
reactant | ammonia | N | H3N
solvent | water | 30 ml | O | H2O
solvent | acetone | 450 ml | CC(=O)C | C3H6O
product | 6,7,8,9-tetrahydropyrido[1,2-a]indole-8-carboxamide | 13 g | C1=C2C=C3N(C2=CC=C1)CCC(C3)C(=O)N | C13H14N2O
